US05554773
(R)-Methyl N-trityl-4-oxo-5-(dimethylphosphono)norvalinate
Dissolve dimethyl methylphosphonate (83mL, 0.766 mol) in anhydrous tetrahydrofuran (800 mL), cool to -78° C. and place under an inert atmosphere. Add, by dropwise addition over 15 minutes, n-butyllithium (306 mL of a 2.5M solution, 0,766 mol). Stir the resulting clear solution for a further 0.5 hour. While maintaining the solution at -78° C, add by dropwise addition over 15 minutes, to another solution of (R)-dimethyl N-tritylaspartate (71 g, 0.182 mol) in anhydrous tetrahydrofuran (200 mL) also at -78° C. Stir for a further 0.5 hours, quench with acetic acid (45 mL) and warm to room temperature. Add ethyl acetate (500 mL) and saturated sodium bicarbonate (250 mL). Separate the organic phase, filter through silica gel and evaporate the solvent to give a solid residue. Crystallize (t-butylmethyl ether/hexane) to give the title compound as a white solid (61.0 g, 69%). 1H NMR (CDCl3) δ7.5-7.25 (m, 15 H), 3.82 (s, 3H), 3.79 (s, 3H), 3.75 (t, 3H), 3.08 (d, 2H), 2.88 (m, 2H), 1.65 (bs, 1H).

reactant | dimethyl methylphosphonate | 0.766 mol, 83mL | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyllithium | C(CCC)[Li]
reactant | (R)-dimethyl N-tritylaspartate | 0.182 mol, 71 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](CC(=O)OC)C(=O)OC | C25H25NO4
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (R)-Methyl N-trityl-4-oxo-5-(dimethylphosphono)norvalinate | 61.0 g, 69% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](CC(CP(=O)(OC)OC)=O)C(=O)OC | C27H30NO6P
